US06734191B2
To a solution of thioacetamide (0.478 g, 6.36 mmol) in CHCl3 (16 mL) was added benzyl bromide (0.76 mL, 6.39 mmol) and the resultant solution was heated to reflux for 2 hours. The mixture was cooled to room temperature. Ether (50 mL) was added and the mixture was cooled in an ice-water bath to precipitate a white solid. The supernatant solution was decanted and the solid was washed with ether (2×50 mL). The solid was dried under vacuum to provide 1.44 g (92%) of S-benzylthioacetimidate hydrobromide as a white solid. 1H NMR (DMSO-d6) δ2.63 (s, 3H), 4.61 (s, 2H), 7.34-7.46 (m, 5H), 11.89 (br s, 1H).

reactant | thioacetamide | 6.36 mmol, 0.478 g | C(C)(=S)N | C2H5NS
reactant | benzyl bromide | 6.39 mmol, 0.76 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Ether | 50 mL | CCOCC | C4H10O
solvent | CHCl3 | 16 mL | C(Cl)(Cl)Cl | CHCl3
product | S-benzylthioacetimidate hydrobromide | 1.44 g, 92% | Br.C(C1=CC=CC=C1)SC(C)=N | InChI=1S/C9H11NS.BrH/c1-8(10)11-7-9-5-3-2-4-6-9;/h2-6,10H,7H2,1H3;1H
